### PR TITLE
[Merged by Bors] - chore: golf some `simp` based proofs

### PR DESCRIPTION
**Pull request by euprunin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Composition/MapComap.lean [hunk 1]
```diff
@@ -161,10 +161,11 @@ theorem comap_apply' (κ : Kernel α β) (hg : Measurable g) (c : γ) (s : Set 
 
 @[simp]
 lemma comap_zero (hg : Measurable g) : Kernel.comap (0 : Kernel α β) g hg = 0 := by
-  ext; rw [Kernel.comap_apply]; simp
+  ext; simp
 
 @[simp]
-lemma comap_id (κ : Kernel α β) : comap κ id measurable_id = κ := by ext a; rw [comap_apply]; simp
+lemma comap_id (κ : Kernel α β) : comap κ id measurable_id = κ := by
+  ext; simp
```
Comment (themathqueen) [inline Mathlib/Probability/Kernel/Composition/MapComap.lean]: keep the same format tho?
```suggestion
lemma comap_id (κ : Kernel α β) : comap κ id measurable_id = κ := by ext; simp
```

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 2]
```diff
@@ -790,7 +790,9 @@ def colimit.homIso' (F : J ⥤ C) [HasColimit F] (W : C) :
   (colimit.isColimit F).homIso' W
 
 theorem colimit.desc_extend (F : J ⥤ C) [HasColimit F] (c : Cocone F) {X : C} (f : c.pt ⟶ X) :
-    colimit.desc F (c.extend f) = colimit.desc F c ≫ f := by ext1; rw [← Category.assoc]; simp
+    colimit.desc F (c.extend f) = colimit.desc F c ≫ f := by
+  ext
+  simp
```
Comment (themathqueen) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean]: same thing here?
```suggestion
    colimit.desc F (c.extend f) = colimit.desc F c ≫ f := by ext; simp
```

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 3]
```diff
@@ -885,7 +887,8 @@ theorem colimit.ι_inv_pre [IsIso (pre F E)] (k : K) :
 @[reassoc (attr := simp)]
 theorem colimit.pre_desc (c : Cocone F) :
     colimit.pre F E ≫ colimit.desc F c = colimit.desc (E ⋙ F) (c.whisker E) := by
-  ext; rw [← assoc, colimit.ι_pre]; simp
+  ext
+  simp
```
Comment (themathqueen) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:889]:
```suggestion
  ext; simp
```

File: Mathlib/Data/Stream/Init.lean [hunk 4]
```diff
@@ -666,9 +666,8 @@ theorem inits_eq (s : Stream' α) :
     rfl
 
 theorem zip_inits_tails (s : Stream' α) : zip appendStream' (inits s) (tails s) = const s := by
-  apply Stream'.ext; intro n
-  rw [get_zip, get_inits, get_tails, get_const, take_succ, cons_append_stream, append_take_drop,
-    Stream'.eta]
+  apply Stream'.ext
```
Comment (grunweg) [inline Mathlib/Data/Stream/Init.lean]: Does this work?
```suggestion
  ext
```

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:889]: In this particular case, I don't mind the new formatting.

**Comment by grunweg** [comment]
!bench

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 3 above)
Comment (euprunin) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:889]: Leaving this unchanged per @grunweg's preference.

File: Mathlib/Probability/Kernel/Composition/MapComap.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/Probability/Kernel/Composition/MapComap.lean]: Changed. Thanks for reviewing!

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 2 above)
Comment (euprunin) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Changed. Thanks for reviewing!

File: Mathlib/Data/Stream/Init.lean (hunk 4 above)
Comment (euprunin) [reply Mathlib/Data/Stream/Init.lean]: It works. Now changed. Thanks for reviewing!

**Comment by ocfnash** [comment]
I think this is worth it, mostly because the less we depend on explicit lemma names, the better.

bors merge
